US04352805
1-[2-(6,7-dimethoxy-4,4-dimethylisochroman-1-yl)ethyl]-4-(3-trifluoromethylphenyl)piperazine, dihydrochloride.
A mixture of 1.50 g. (0.0053 m) of 2-(6,7-dimethoxy-4,4-dimethyisochroman-1-yl)ethyl chloride, 2.48 g. (0.011 m) of 3-trifluoromethylphenylpiperazine and 30 ml of ethylene glycol is stirred at 55° for 24 hr. The mixture is partitioned between methylene chloride and sodium bicarbonate. The organic phase is concentrated and chromatographed. The salt of the title compound is prepared from ethereal hydrogen chloride. The yield is 0.83 g., mp 162°-163.5° C.

reactant | 2-(6,7-dimethoxy-4,4-dimethyisochroman-1-yl)ethyl chloride | COC=1C=C2C(COC(C2=CC1OC)CCCl)(C)C | C15H21ClO3
reactant | 3-trifluoromethylphenylpiperazine | FC(C=1C=C(C=CC1)N1CCNCC1)(F)F | C11H13F3N2
solvent | ethylene glycol | 30 ml | C(CO)O | C2H6O2
product | 1-[2-(6,7-dimethoxy-4,4-dimethylisochroman-1-yl)ethyl]-4-(3-trifluoromethylphenyl)piperazine, dihydrochloride | Cl.Cl.COC=1C=C2C(COC(C2=CC1OC)CCN1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F)(C)C | InChI=1S/C26H33F3N2O3.2ClH/c1-25(2)17-34-22(20-15-23(32-3)24(33-4)16-21(20)25)8-9-30-10-12-31(13-11-30)19-7-5-6-18(14-19)26(27,28)29;;/h5-7,14-16,22H,8-13,17H2,1-4H3;2*1H
